US07396844B1
Synthesis of 1-benzoyl-N-[2-(3-cyanophenoxy)ethyl]piperidine-4-carboxyamide
175 mg (1.43 mmol) of benzoic acid, 430 mg (1.58 mmol) of N-[2-(3-cyanophenoxy)ethyl]piperidine-4-carboxyamide, 0.22 ml (1.58 mmol) of triethylamine, 213 mg (158 mmol) of 1-hydroxybenzotriazole and 303 mg (1.58 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride were stirred in 10 ml of dimethylformamide at room temperature overnight. After the treatment with ethyl acetate as the extractant in an ordinary manner, the title compound was obtained.

reactant | benzoic acid | 1.43 mmol, 175 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | N-[2-(3-cyanophenoxy)ethyl]piperidine-4-carboxyamide | 1.58 mmol, 430 mg | C(#N)C=1C=C(OCCNC(=O)CC2CCNCC2)C=CC1 | C16H21N3O2
reactant | triethylamine | 1.58 mmol, 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole | 158 mmol, 213 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.58 mmol, 303 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-benzoyl-N-[2-(3-cyanophenoxy)ethyl]piperidine-4-carboxyamide | C(C1=CC=CC=C1)(=O)N1CCC(CC1)CC(=O)NCCOC1=CC(=CC=C1)C#N | C23H25N3O3
